US04894458
2,4,5-Trifluoro-3-methylbenzoyl chloride
A mixture of 2,4,5-trifluoro-3-methylbenzoic acid (6.0 g), thionyl chloride (26 ml) and DMF (0.01 ml) was refluxed for 4 hours. Then excess thionyl chloride was removed under reduced pressure, the resulting residue was distilled under reduced pressure to give the title compound (4.51 g) as pale yellow liquid, bp 90°-92° C./40 mmHg.

reactant | 2,4,5-trifluoro-3-methylbenzoic acid | 6.0 g | FC1=C(C(=O)O)C=C(C(=C1C)F)F | C8H5F3O2
reactant | thionyl chloride | 26 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.01 ml | CN(C)C=O | C3H7NO
product | 2,4,5-Trifluoro-3-methylbenzoyl chloride | 4.51 g | FC1=C(C(=O)Cl)C=C(C(=C1C)F)F | C8H4ClF3O
